US07012077B2
A solution of 0.24 g (1.44 mmol) of trans-3-(4-Methylamino-cyclohexyl)-prop-2-yn-1-ol, 0.7 ml (5.74 mmol) of 2-chloro-5-ethylpyrimidine, 0.83 ml (4.88 mmol) N-ethyldiisopropylamine and a catalytic amount of NaI in 1.5 ml DMA was heated in the microwave oven for 3.75 h at 120° C. The reaction was cooled and partitioned between aqueous saturated NaHCO3/Et2O (3×). The organic phases were washed with aqueous 10% NaCl, dried (NaSO4) and evaporated. Flash chromatography on silica gel (hexane/EtOAc 9:1 to 1:1) gave 0.24 g (61%) of trans-3-{4-[(5-Ethyl-pyrimidin-2-yl)-methyl-amino]-cyclohexyl}-prop-2-yn-1-ol, MS: 274 (MH+).

reactant | trans-3-(4-Methylamino-cyclohexyl)-prop-2-yn-1-ol | 1.44 mmol, 0.24 g | CN[C@@H]1CC[C@H](CC1)C#CCO | C10H17NO
reactant | 2-chloro-5-ethylpyrimidine | 5.74 mmol, 0.7 ml | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | N-ethyldiisopropylamine | 4.88 mmol, 0.83 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | NaI | [Na+].[I-]
solvent | DMA | 1.5 ml | CC(=O)N(C)C | C4H9NO
product | trans-3-{4-[(5-Ethyl-pyrimidin-2-yl)-methyl-amino]-cyclohexyl}-prop-2-yn-1-ol | 0.24 g, 61% | C(C)C=1C=NC(=NC1)N([C@@H]1CC[C@H](CC1)C#CCO)C | C16H23N3O
